US04366155
To a solution of 28.1 grams (0.166 mol.) of mucochloric acid dissolved in 120 milliliters of ethanol were added 37 grams (0.151 mol.) of 3,5-bis-(trifluoromethyl)phenylhydrazine. The mixture was stirred for about one hour, and then the ethanol was removed from the solution by evaporation under reduced pressure. Eighty milliliters of glacial acetic acid and 80 milliliters of acetic anhydride were added to the residue in one portion. The mixture was heated to reflux for four hours, and then cooled and the solvent was removed by evaporation under reduced pressure. Recrystallization of the residue from ethanol produced 51.7 grams of 4,5-dichloro-1-[3,5-bis(trifluoromethyl)-phenyl]-1,6-dihydro-6-oxopyridazine.

reactant | mucochloric acid | 0.166 mol, 28.1 grams | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
reactant | 3,5-bis-(trifluoromethyl)phenylhydrazine | 0.151 mol, 37 grams | FC(C=1C=C(C=C(C1)C(F)(F)F)NN)(F)F | C8H6F6N2
solvent | ethanol | 120 milliliters | C(C)O | C2H6O
product | 4,5-dichloro-1-[3,5-bis(trifluoromethyl)-phenyl]-1,6-dihydro-6-oxopyridazine | 51.7 grams | ClC=1C=NN(C(C1Cl)=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C12H4Cl2F6N2O
